US06184225B2
A mixture of 7-(2-cyclopentyloxyethoxy)-6-methoxy-4-phenoxyquinazoline (470 mg, 1.2 mmol) and 2M hydrochloric acid (6 ml) was heated at 90° C. for 2 hours and allowed to cool. Water was added, and the product was extracted with methylene chloride. The combined extracts were washed with aqueous sodium hydrogen carbonate, passed through phase separating paper and the solvent was removed by evaporation. Trituration with ethyl acetate give 7-(2-cyclopentyloxyethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (270 mg, 74%).

reactant | 7-(2-cyclopentyloxyethoxy)-6-methoxy-4-phenoxyquinazoline | 1.2 mmol, 470 mg | C1(CCCC1)OCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC=CC=C1)OC | C22H24N2O4
reactant | hydrochloric acid | 2M, 6 ml | Cl | ClH
solvent | Water | O | H2O
product | 7-(2-cyclopentyloxyethoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 270 mg, 74% | C1(CCCC1)OCCOC1=C(C=C2C(NC=NC2=C1)=O)OC | C16H20N2O4
